Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right sided abdominal pain
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
Patient is ___ year old female, otherwise healthy who fell off a 
horse and was trampled underfoot. Patient was taken to an OSH 
where she was found to have a grade ___ liver laceration and rib 
fractures. She was hypotensive at the OSH. She was given 2 units 
of PRBCs en route and transferred to ___. At ___ she had a 
positive FAST. Her cervical spine and head CT were negative. She 
was admitted to trauma icu for observation. 
 
Past Medical History:
PMH
none

PSH
S/P ORIF right fenur post MVC ___
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Temp:97 HR:81 ___ Resp:30 O(2)Sat:100% on 2 L nasal
cannula Normal
 
Constitutional: Anxious, uncomfortable boarded and collared
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
c-collar in place
Chest: Clear to auscultation multiple abrasions over right
anterior chest and abdomen
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: To palpation in the right upper quadrant
positive bowel sounds
Rectal: Heme Negative normal rectal tone
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema no step-offs or
deformities no gross deformities moves all extremities
Skin: No rash
Neuro: Speech fluent GCS of 15
Psych: Anxious
 

 
Pertinent Results:
___ 03:33PM BLOOD WBC-18.0* RBC-3.62* Hgb-11.1* Hct-30.8* 
MCV-85 MCH-30.8 MCHC-36.2* RDW-13.8 Plt ___
___ 07:58PM BLOOD WBC-20.8* RBC-3.92* Hgb-11.8* Hct-33.5* 
MCV-86 MCH-30.2 MCHC-35.3* RDW-14.1 Plt ___
___ 12:27AM BLOOD Hct-32.1*
___ 02:09AM BLOOD WBC-16.8* RBC-3.80* Hgb-11.5* Hct-32.5* 
MCV-86 MCH-30.4 MCHC-35.5* RDW-14.6 Plt ___
___ 10:37AM BLOOD WBC-13.1* RBC-3.56* Hgb-10.7* Hct-30.6* 
MCV-86 MCH-30.2 MCHC-35.1* RDW-14.8 Plt ___
___ 04:07PM BLOOD WBC-12.2* RBC-3.12* Hgb-9.5* Hct-27.5* 
MCV-87 MCH-30.5 MCHC-35.0 RDW-14.5 Plt ___
___ 10:13PM BLOOD Hct-25.9*
___ 03:28AM BLOOD WBC-14.4* RBC-3.02* Hgb-9.3* Hct-25.5* 
MCV-85 MCH-30.8 MCHC-36.4* RDW-14.7 Plt ___
___ 03:33PM BLOOD ___ PTT-25.9 ___
___ 07:58PM BLOOD ___ PTT-23.8 ___
___ 02:09AM BLOOD ___ PTT-23.2 ___
___ 03:28AM BLOOD ___ PTT-23.3 ___
___ 03:33PM BLOOD UreaN-13 Creat-0.8
___ 07:58PM BLOOD Glucose-141* UreaN-12 Creat-0.7 Na-141 
K-4.4 Cl-112* HCO3-24 AnGap-9
___ 02:09AM BLOOD Glucose-128* UreaN-11 Creat-0.8 Na-141 
K-4.4 Cl-111* HCO3-24 AnGap-10
___ 04:38PM BLOOD Glucose-104* UreaN-10 Creat-0.6 Na-139 
K-4.1 Cl-110* HCO3-24 AnGap-9
___ 03:28AM BLOOD Glucose-93 UreaN-8 Creat-0.5 Na-132* 
K-3.7 Cl-104 HCO3-23 AnGap-9
___ 07:58PM BLOOD Calcium-7.3* Phos-4.3 Mg-1.8
___ 02:09AM BLOOD Calcium-7.9* Phos-4.6* Mg-2.5
___ 04:38PM BLOOD Calcium-7.5* Phos-1.8*# Mg-1.6
___ 03:28AM BLOOD Calcium-7.5* Phos-1.5* Mg-1.7

imaging:
___ CT a/p  
1. Grade V liver laceration involving the majority of the right 
lobe with 
sparing of the left lobe without evidence for active 
extravasation. 
2. Perihepatic and perisplenic hemorrhagic fluid tracking down 
bilateral 
paracolic gutters and compressing the intrahepatic inferior vena 
cava.  
3. Right basilar lung lacerations and contusions with multiple 
tiny foci of pneumothorax and hemopneumothorax. 
4. Nondisplaced T8 and T10 right rib fractures. 

___ CT c-spine 
No evidence for acute fracture or malalignment.

___ CT head 
Left frontal arachnoid cyst without evidence for acute 
intracranial process. 

 
Brief Hospital Course:
Ms. ___ was admitted to the ___ for observation, serial 
hematocrits and abdominal exams.  Her hematocrit on admission 
was 30 and remained in the ___ range.  She was made NPO, 
hydrated with IV fluids and followed closely as operative 
intervention was a strong possibility. She was maintained on 
bedrest and remained hemodynamically stable.  Her abdominal pain 
was due to hemoperitoneum as opposed to active bleeding. 

Her pain control was initially with a Dilaudid PCA which was 
generally effective.  The pain from her rib fractures precluded 
her from using her incentive spirometry and deep breathing.  As 
her hematocrit remained stable , her diet was advanced and 
eventually oral pain medication was more effective.

After three days in the Trauma ICU she transferred to the Trauma 
floor for additional pulmonary toilet and to increase her 
ambulation.  With the addition of Ultram and Tylenol to oral 
Dilaudid, her pain was better controlled and she was able to do 
more including use her incentive spirometer and ambulate.

As she was gradually improving daily, she was discharged to home 
on HOD #8 with a hematocrit of 29 and ambulating safely.
 
Medications on Admission:
OCP
 
Discharge Medications:
1. tramadol 50 mg Tablet Sig: One (1) Tablet PO QID (4 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
2. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.
Disp:*80 Tablet(s)* Refills:*0*
3. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO at bedtime as needed for constipation.  
4. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day: 
hold for loose stool.  
5. senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
S/P Fall off a horse and subsequently trampling
1. Grade V liver laceration
2. Hemoperitoneum
3. Right lung laceration and contusion
4. Right rib fractures 8 and 10
5. Small right pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital with multiple injuries after 
being trampled by a horse. You sustained a severe liver 
laceration along with a lung laceration with bruising and rib 
fractures.

* Your blood count was monitored closely and has been stable 
since your transfer.  You required 2 blood transfusions prior to 
your arrival here.  You still have abdominal pain probably from 
the fluid which has collected in your abdomen as opposed to 
active bleeding.

*  Your injury caused right rib fractures 8 and 10 which can 
cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.
 
*  You should take your pain medication as directed to stay 
ahead of the pain otherwise you won't be able to take deep 
breaths. If the pain medication is too sedating take half the 
dose and notify your physician.
 
*  Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
*  You will be more comfortable if you use a cough pillow to 
hold against your chest and guard your rib cage while coughing 
and deep breathing.
 
*  Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
*  Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
*  Do NOT smoke
 
*  If your doctor allows, non steroidal antiinflammatory drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
*  Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs ( crepitus ), increased abdominal pain, 
dizziness, increased fatigue or any other symptoms that concern 
you.
 
Followup Instructions:
___